US07144899B2
Step C: 3-Methyl-D-valyl-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide
A mixture of N-(tert-butoxycarbonyl)-3-methyl-D-valine (53 mg, 0.23 mmol), N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide (87 mg, 0.23 mmol, 1.0 equiv), EDC (66 mg, 0.34 mmol, 1.5 equiv), HOAt (16 mg, 0.11 mmol, 0.5 equiv) in DMF (1 mL) was brought to pH 6 by addition of Hünig's base and stirred at room temperature for 18 h. The solvent was removed in vacuo, and the resulting residue was dissolved in 2:1 CH2Cl2/TFA (3 mL) and stirred for 1 h. Solvent was again removed in vacuo, and purification by reverse phase chromatography [95:5 water (+0.1% TFA)/CH3CN (+0.1% TFA) to 50:50 water (+0.1% TFA)/CH3CN (+0.1% TFA)] afforded the title compound as a clear oil. 1H NMR (400 MHz, CDCl3): δ 8.93 (s, 1 H), 8.29 (s, 1 H), 8.00 (br s, 1 H), 7.55 (d, J=2.0 Hz, 1 H), 7.39 (dd, J=2.0, 8.4 Hz, 1 H), 7.25 (d, J=8.4 Hz, 1 H), 7.01 (br s, 2 H), 4.47–4.45 (m, 1 H), 4.35–4.30 (m, 2 H), 4.15 (dd, J=5.2, 15.2 Hz, 1 H), 3.80–3.71 (m, 1 H), 3.58–3.52 (m, 1 H), 2.15–2.12 (m, 2 H), 2.01–1.98 (m, 2 H), 1.10 (s, 9 H). HRMS (APCI) M+H: calculated for (C20H27N6O2Cl)+ 419.1957, found 419.1935.

reactant | N-(tert-butoxycarbonyl)-3-methyl-D-valine | 0.23 mmol, 53 mg | C(C)(C)(C)OC(=O)N[C@H](C(C)(C)C)C(=O)O | C11H21NO4
reactant | N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide | 0.23 mmol, 87 mg, 1.0 equiv | ClC=1C=CC(=C(CNC([C@H]2NCCC2)=O)C1)N1N=CN=C1 | C14H16ClN5O
reactant | EDC | 0.34 mmol, 66 mg, 1.5 equiv
reactant | HOAt | 0.11 mmol, 16 mg, 0.5 equiv | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Hünig's base | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-Methyl-D-valyl-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide | CC([C@@H](N)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)N2N=CN=C2)CCC1)(C)C | C20H27ClN6O2
